US04352818
A solution of 19 g (70 mmol) of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid hydrazide in 60 ml of water and 150 ml of glacial acetic acid is treated dropwise at 0° to 5° with a solution of 16.5 g of sodium nitrite in 30 ml of water. The white suspension is subsequently stirred in an ice-bath for 1 hour and cautiously poured into 150 g of sodium carbonate in 400 ml of water. The precipitated material is filtered off under suction, washed with water and dried. There is obtained 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid azide which decomposes at 160°.

reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid hydrazide | 70 mmol, 19 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)NN | C13H13N5O2
reactant | sodium nitrite | 16.5 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | 150 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 60 ml | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid azide | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)N=[N+]=[N-] | C13H10N6O2
